US06451810B1
Using the general method of Example 11 Part C, N1-{3-[(3-nitroquinolin-4-yl)amino]propyl}benzamide (2.0 g, 5.7 mmol) was reduced to the diamine and then reacted with triethylorthoacetate to provide 0.74 g of N1-[3-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]benzamide as a sticky dark yellow solid.

reactant | N1-{3-[(3-nitroquinolin-4-yl)amino]propyl}benzamide | 5.7 mmol, 2.0 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCNC(C1=CC=CC=C1)=O | C19H18N4O3
reactant | triethylorthoacetate | C(C)C(C([O-])([O-])[O-])(CC)CC
product | N1-[3-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]benzamide | 0.74 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCNC(C1=CC=CC=C1)=O | C21H20N4O
